US04051251
DL-3-(benzimidazol-2-one-5-yl)alanine Hydrochloride
Following the procedure for the production of the racemic mixture is Example 1, diethyl 2-(3-nitro-4-acetamidobenzyl)-2-acetaminomalonate is hydrolyzed and cyclized with phosgene to produce pure Example 3 title compound in 54% yield: m.p. 259° (decomp).

reactant | diethyl 2-(3-nitro-4-acetamidobenzyl)-2-acetaminomalonate | [N+](=O)([O-])C=1C=C(CC(C(=O)OCC)(C(=O)OCC)NC(=O)C)C=CC1NC(C)=O | C18H23N3O8
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 3-(benzimidazol-2-one-5-yl)alanine Hydrochloride | 54% yield | Cl.N=1C(N=C2C1C=CC(=C2)C[C@H](N)C(=O)O)=O | InChI=1S/C10H9N3O3.ClH/c11-6(9(14)15)3-5-1-2-7-8(4-5)13-10(16)12-7;/h1-2,4,6H,3,11H2,(H,14,15);1H/t6-;/m0./s1
